US04017606
In the manner given in Example 2C 1-β-D-lyxofuranosyl-dihydrothymine was reduced with sodium borohydride to give 5-methyl-4-hydroxy-1-β-D-lyxofuranosyl-tetrahydro-2(1H)-pyrimidinone.

reactant | 1-β-D-lyxofuranosyl-dihydrothymine | [C@@H]1([C@@H](O)[C@@H](O)[C@H](O1)CO)N1C(=O)NC(=O)C(C)C1 | C10H16N2O6
reactant | sodium borohydride | [BH4-].[Na+]
product | 5-methyl-4-hydroxy-1-β-D-lyxofuranosyl-tetrahydro-2(1H)-pyrimidinone | CC1C(NC(N(C1)[C@H]1[C@@H](O)[C@@H](O)[C@H](O1)CO)=O)O | C10H18N2O6
